US07300917B2
2-(4-formylphenyl)benzoic acid methyl ester
To a solution of 4-formylphenylboric acid (6.7 g) in N,N-dimethylformamide (100 ml) were added 2-bromobenzoic acid methyl ester (6.5 g), tetrakis(triphenylphosphine)palladium [Pd(PPh3)4] (1.0 g) and tripotassium phosphate (23 g). The reaction mixture was stirred for 5 hours at 75° C. The reaction mixture was filtrated and concentrated. To the residue were added 1N hydrochloric acid and ethyl acetate, and the mixture was concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=9:1) to give the title compound (4.1 g) having the following physical data.

reactant | 4-formylphenylboric acid | 6.7 g | C(=O)C1=CC=C(C=C1)OB(O)O | C7H7BO4
reactant | 2-bromobenzoic acid methyl ester | 6.5 g | COC(C1=C(C=CC=C1)Br)=O | C8H7BrO2
reactant | tripotassium phosphate | 23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-formylphenyl)benzoic acid methyl ester | 4.1 g | COC(C1=C(C=CC=C1)C1=CC=C(C=C1)C=O)=O | C15H12O3
